US07569700B2
d) N-[2-(Hexahydropyrrolo[3,4-c]pyrrol-1-yl)-1-(3-methylbut-2-enyl)-1H-benzimidazol-6-yl]-benzamide
10 mg (0.02 mmol) of tert-butyl 5-[6-benzoylamino-1-(3-methylbut-2-enyl)-1H-benzimidazol-2-yl]hexahydropyrrolo[3,4-c]pyrrole-2-carboxylate were dissolved in 200 μl of trifluoroacetic acid and 200 μl of water, and stirred at room temperature for 19 hours. The reaction mixture was diluted with water and freeze-dried. 10 mg (95%) of the desired product were obtained.

reactant | tert-butyl 5-[6-benzoylamino-1-(3-methylbut-2-enyl)-1H-benzimidazol-2-yl]hexahydropyrrolo[3,4-c]pyrrole-2-carboxylate | 0.02 mmol, 10 mg | C(C1=CC=CC=C1)(=O)NC=1C=CC2=C(N(C(=N2)N2CC3C(C2)CN(C3)C(=O)OC(C)(C)C)CC=C(C)C)C1 | C30H37N5O3
reactant | trifluoroacetic acid | 200 μl | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 200 μl | O | H2O
product | N-[2-(Hexahydropyrrolo[3,4-c]pyrrol-1-yl)-1-(3-methylbut-2-enyl)-1H-benzimidazol-6-yl]-benzamide | 10 mg, 95% | C1(NCC2C1=CNC2)C2=NC1=C(N2CC=C(C)C)C=C(C=C1)NC(C1=CC=CC=C1)=O | C25H27N5O
